* Low-Noise Matched Transistor Array ngspice model
* file name: THAT340.lib
.subckt THAT340 1 2 3 4 5 6 7 8 9 10 11 12 13 14
.include .lib
.include bc5x7.lib
Q1 1 2 3 BC846B
Q2 14 13 12 BC846B
Q3 7 6 5 BC556B
Q4 8 9 10 BC556B
.ends 
 
